US05149714
STEP A; CIS-2,3-Dihydro-2-(N-benzyl-N-methyl-aminomethyl)-inden-1-ol
To an ice-cooled suspension of 3.46 g (0.01M) of 2,3-dihydro-2-(N-benzyl-N-methyl-aminomethyl)-1H-inden-1-one hydrobromide in 50 ml of dry tetrahydrofuran add 25 ml of a 1M solution of L-Selectride®. Stir the mixture for 1.5 hours and decompose with 5 ml of 10% sodium hydroxide solution. Evaporate the solvent at reduced pressure and distribute the residue between ether and water. Separate the ether layer and extract with dilute hydrochloric acid. Basify the acid extract to yield an oil. Extract the oil into ethyl acetate. Evaporate the solvent and Kugelrohr distill at 90°-100°/0.4 mm to yield 1.78 g (67%) of the title compound [bp=135°-40° C. at 0.3 mmHg].

reactant | 2,3-dihydro-2-(N-benzyl-N-methyl-aminomethyl)-1H-inden-1-one hydrobromide | 0.01M, 3.46 g | Br.C(C1=CC=CC=C1)N(C)CC1C(C2=CC=CC=C2C1)=O
reactant | L-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | CIS-2,3-Dihydro-2-(N-benzyl-N-methyl-aminomethyl)-inden-1-ol | 1.78 g, 67% | C(C1=CC=CC=C1)N(C)C[C@@H]1[C@@H](C2=CC=CC=C2C1)O | C18H21NO
